US09340491B2
The 3-chloropropanenitrile (4.32 g, 48.3 mmol) and thiourea (4.04 g, 53.1 mmol) are mixed in 40 ml of water. The mixture is heated to reflux for 3 to 4 hours. The reaction mixture is evaporated and 20 ml of ethanol is added and then evaporated as well. This is repeated three times. After that, 10 ml of methanol and 30 ml of acetone are added and the mixture is stirred for one hour. The crystalline material is filtered and the product is dried under high vacuum overnight to obtain S-(2-cyanoethyl)isothiourea hydrochloride.

reactant | 3-chloropropanenitrile | 48.3 mmol, 4.32 g | ClCCC#N | C3H4ClN
reactant | thiourea | 53.1 mmol, 4.04 g | NC(=S)N | CH4N2S
solvent | water | 40 ml | O | H2O
product | S-(2-cyanoethyl)isothiourea hydrochloride | Cl.C(#N)CCSC(N)=N | InChI=1S/C4H7N3S.ClH/c5-2-1-3-8-4(6)7;/h1,3H2,(H3,6,7);1H
